US04981856
Oxalyl chloride (13 ml) was added dropwise to a stirred suspension of 5-nitrothiazole-2-carboxylic acid (12.9 g; Chem. Ber. 1973, 106, 722) in a mixture of methylene chloride (80 ml and dimethylformamide (20 ml). The mixture was stirred at laboratory temperature for 30 minutes and evaporated to dryness to give 5-nitrothiazole-2-carbonyl chloride.

reactant | Oxalyl chloride | 13 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-nitrothiazole-2-carboxylic acid | 12.9 g | [N+](=O)([O-])C1=CN=C(S1)C(=O)O | C4H2N2O4S
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-nitrothiazole-2-carbonyl chloride | [N+](=O)([O-])C1=CN=C(S1)C(=O)Cl | C4HClN2O3S
